US07538131B2
140 g of (1S,3R)-3-isopropoxycarbonylcyclohexanecarboxylic acid are dissolved in THF, and 100 ml of triethylamine was added. At −10° C., 68.4 ml of ethyl chloroformate were added dropwise, and the suspension was stirred overnight. After filtration through celite, 55 g of sodium borohydride are added at 0° C., and the suspension is stirred at RT for a further 6 h. A further 25 g of sodium borohydride are added, and the suspension is stirred overnight. Water is added and the solution was stirred for 2 h. The phases are separated and the aqueous phase is extracted with MTBE, and the combined organic phases were washed with sat. NaCl solution, dried over MgSO4 and concentrated. 105 g of isopropyl (1R,3S)-3-hydroxymethylcyclohexanecarboxylate were obtained as a colorless oil.

reactant | (1S,3R)-3-isopropoxycarbonylcyclohexanecarboxylic acid | 140 g | C(C)(C)OC(=O)[C@H]1C[C@H](CCC1)C(=O)O | C11H18O4
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 68.4 ml | ClC(=O)OCC | C3H5ClO2
solvent | THF | C1CCOC1 | C4H8O
product | isopropyl (1R,3S)-3-hydroxymethylcyclohexanecarboxylate | 105 g | OC[C@@H]1C[C@@H](CCC1)C(=O)OC(C)C | C11H20O3
